US07414060B2
Step 1: 3-(5-Cyclopropyl-2-methyl-2H-pyrazol-3-ylamino)-6-methyl-pyridine-2-carboxylic acid ethyl ester:
The Pd catalyzed coupling of 3-Bromo-6-methyl-pyridine-2-carboxylic acid ethyl ester and 5-Amino-3-cyclopropyl-1-methylpyrazole was performed in accordance with the general method of Example 78, step 3 to yield the title compound as an orange solid, MS (ISP): m/e 301.4 (M+H+).

reactant | 3-Bromo-6-methyl-pyridine-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC(=CC=C1Br)C | C9H10BrNO2
reactant | 5-Amino-3-cyclopropyl-1-methylpyrazole | NC1=CC(=NN1C)C1CC1 | C7H11N3
catalyst | Pd | [Pd] | Pd
product | 3-(5-Cyclopropyl-2-methyl-2H-pyrazol-3-ylamino)-6-methyl-pyridine-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC(=CC=C1NC=1N(N=C(C1)C1CC1)C)C | C16H20N4O2
